US05312753
avermectin B2a aglycone→avermectin B2a (disaccharide)
13β-14a-hydroxy, avermectin B1a aglycone→13β-14a-hydroxy, avermectin B1a monosaccharide

reactant | avermectin B1a aglycone | CCC(C)[C@@H]1[C@H](C=C[C@@]2(O1)C[C@@H]3C[C@H](O2)C/C=C(/[C@H]([C@H](/C=C/C=C/4\CO[C@H]5[C@@]4([C@@H](C=C([C@H]5O)C)C(=O)O3)O)C)O)\C)C | C34H48O8
reactant | avermectin B1a monosaccharide | CCC(C)[C@@H]1[C@H](C=C[C@@]2(O1)C[C@@H]3C[C@H](O2)C/C=C(/[C@H]([C@H](/C=C/C=C/4\CO[C@H]5[C@@]4([C@@H](C=C([C@H]5O)C)C(=O)O3)O)C)O[C@H]6C[C@@H]([C@H]([C@@H](O6)C)O)OC)\C)C | C41H60O11
product | avermectin B2a aglycone | CCC(C)[C@@H]1[C@H]([C@H](C[C@@]2(O1)C[C@@H]3C[C@H](O2)C/C=C(/[C@H]([C@H](/C=C/C=C/4\CO[C@H]5[C@@]4([C@@H](C=C([C@H]5O)C)C(=O)O3)O)C)O)\C)O)C | C34H50O9
